US04782057
A mixture of 2-(4-aminophenyl)-9-chloro-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one in acetic anhydride is refluxed under heating for 8 hours. After the acetic anhydride is distilled off, the residue is extracted with chloroform. The extract is washed with water and dried over magnesium sulfate anhydride. The chloroform is distilled off to give 2-(4-acetamidophenyl)-9-chloro-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one.

reactant | 2-(4-aminophenyl)-9-chloro-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | NC1=CC=C(C=C1)N1N=C2C3=C(CCC2CC1=O)C=CC(=C3)Cl | C18H16ClN3O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(4-acetamidophenyl)-9-chloro-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | C(C)(=O)NC1=CC=C(C=C1)N1N=C2C3=C(CCC2CC1=O)C=CC(=C3)Cl | C20H18ClN3O2
